US09371319B2
Preparation 161: 2-Chloro-4-(1,4-dimethyl-1H-imidazol-5-yl)aniline
5-(3-Chloro-4-nitrophenyl)-1,4-dimethyl-1H-imidazole (Preparation 160, 99 mg 0.39 mmole) was stirred in ethanol (3.6 mL) and 1M sodium dithionite in water (1.2 mL, 1.2 mmole) was added. The reaction was heated at 40° C. for 1 hour. 2M Hydrochloric acid (5 mL) was added and the reaction was heated at 50° C. for 1 hour. The solution was cooled and quenched with anhydrous sodium carbonate and the ethanol was evaporated. The solution was saturated with sodium chloride and extracted with ethyl acetate (4×6 mL). The organic layers were dried and evaporated to afford the title compound (62 mg, 71%). 1H-NMR (CD3OD, 500 MHz): δ 2.12 (s, 3H), 3.52 (s, 3H), 6.92 (d, J=8.20, 1H), 7.01 (d, J=1.89, 8.20 Hz, 1H), 7.18 (d, J=1.89 Hz, 1H), 7.53 (s, 1H).

reactant | 5-(3-Chloro-4-nitrophenyl)-1,4-dimethyl-1H-imidazole | 0.39 mmole, 99 mg | ClC=1C=C(C=CC1[N+](=O)[O-])C1=C(N=CN1C)C | C11H10ClN3O2
reactant | sodium dithionite | 1M | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 1.2 mmole, 1.2 mL | O | H2O
reactant | Hydrochloric acid | 2M, 5 mL | Cl | ClH
solvent | ethanol | 3.6 mL | C(C)O | C2H6O
product | 2-Chloro-4-(1,4-dimethyl-1H-imidazol-5-yl)aniline | 62 mg, 71% | ClC1=C(N)C=CC(=C1)C1=C(N=CN1C)C | C11H12ClN3
